US08809545B2
Step 1: synthesis of 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile
A mixture of 4-bromo-2-chlorobenzonitrile (15 g, 69.3 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (17.60 g, 69.3 mmol), potassium acetate (13.60 g, 139 mmol) and PdCl2(dppf).CH2Cl2 adduct (2.83 g, 3.46 mmol) in 1,4-dioxane (100 mL) was heated to 80° C. for 4.5 h. After filtration and concentration, the residue was dissolved into CH2Cl2 and mixed with celite. After concentration, the residue was loaded to column (120 g isco) and flushed with ethyl acetate/heptane (v/v, 0%-5%) and resulted in a colorless solid 16.4 g. 1H NMR (400 MHz, CDCl3): δ 1.35 (s, 12H), 7.61 (d, J=7.6 Hz, 1H), 7.70 (d, J=7.6 Hz, 1H), 7.87 (s, 1H).

reactant | 4-bromo-2-chlorobenzonitrile | 69.3 mmol, 15 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 69.3 mmol, 17.60 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 139 mmol, 13.60 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 3.46 mmol, 2.83 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 16.4 g | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
